US06002008
A mixture of 0.5 g of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 0.47 g of 3-aminobenzonitrile, 0.16 ml of pyridine, and 12 ml of ethoxyethanol was stirred, under nitrogen, at reflux temperature for 22 h. The mixture was cooled and partitioned with dichloromethane and aqueous sodium bicarbonate. The organic layer was washed with water, dried and evaporated. The residue was recrystallized from ethyl acetate-hexanes to give 0.59 g of 4-[(3-cyanophenyl)amino]-6,7-dimethoxy-3-quinolinecarbonitrile as a solid, mp 285-288° C.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 0.5 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 3-aminobenzonitrile | 0.47 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | ethoxyethanol | 12 ml | C(C)OC(C)O | C4H10O2
solvent | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
product | 4-[(3-cyanophenyl)amino]-6,7-dimethoxy-3-quinolinecarbonitrile | 0.59 g | C(#N)C=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C19H14N4O2
